* D:\Projekte\Projects\AVR\AnotherTry\Circuit\PWM_Trigger.asc
V1 N001 0 5
V2 N002 0 5
V3 N004 0 PULSE(0 5 0 0.01 0.01 0.5 1 20)
R1 IN1 N001 2k
R2 IN2 N002 2k
R3 N005 N004 4k
R4 0 N005 1k
Q1 N003 N005 0 0 BC547B
D1 IN1 N003 1N914
D2 IN2 N003 1N914
.model D D
.lib C:\Users\AP02\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\AP02\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10
.backanno
.end
